US07816387B2
Dimethyl 5-[(methylsulfonyl)amino]isophthalate
A mixture of dimethyl 3-aminoisophthalate 25.3 g (121 mmol), methanesulfonyl chloride 10 mL (130 mmol) and pyridine (50 mL) was stirred at 50° C. for 4 hours. The reaction solution was poured into a 0.5 N hydrochloric acid (300 mL), and the precipitated solid was collected by filtering, washed with 0.5 N hydrochloric acid and dried under vacuum to give 34.8 g (121 mmol) of the title compound (yield: 100%).

reactant | dimethyl 3-aminoisophthalate | 121 mmol, 25.3 g | NC1(CC(C(=O)OC)=CC=C1)C(=O)OC | C10H13NO4
reactant | methanesulfonyl chloride | 130 mmol, 10 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5 N, 300 mL | Cl | ClH
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Dimethyl 5-[(methylsulfonyl)amino]isophthalate | 121 mmol, 34.8 g, yield: 100% | CS(=O)(=O)NC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C11H13NO6S
